US08030499B2
Step 238-1: Synthesis of 3-(5-chloro-3-hydroxy-2-oxo-2,3-dihydro-1H-indol-3-yl)-4-methoxy benzo nitrile
Under nitrogen atmosphere, to a suspension of 3.57 g of 5-chloroisatin in THF (100 ml) was added 865 mg of NaH under ice cooling and the reaction mixture was stirred for one hour. Thereafter, the solution prepared beforehand was added dropwise. The solution was stirred at the same temperature for two hours, then, a saturated aqueous solution of NH4Cl and EtOAc were added and liquid separation was performed; the organic layer was washed with saturated brine and dried over MgSO4, then, the drying agent was separated by filtration and the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography (silicagel 60; mobile phase: EtOAc/n-hexane=1/1 to MeOH/CHCl3=1/9; v/v) to obtain 460 mg of the title compound (colorless solid).

reactant | 5-chloroisatin | 3.57 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | NaH | 865 mg | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(5-chloro-3-hydroxy-2-oxo-2,3-dihydro-1H-indol-3-yl)-4-methoxy benzo nitrile | 460 mg | ClC=1C=C2C(C(NC2=CC1)=O)(O)C=1C=C(C#N)C=CC1OC | C16H11ClN2O3
